US07687491B2
(26c) 1-({5-[(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid
The title compound (0.12 g) was synthesized in a yield of 90% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate (0.14 g, 0.32 mmol) that was obtained in Example 26 (26b) and a 1 N aqueous solution of sodium hydroxide (0.96 mL, 0.96 mmol).

reactant | methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | 0.32 mmol, 0.14 g | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)OC | C23H25ClN4O3
reactant | sodium hydroxide | 0.96 mmol, 0.96 mL | [OH-].[Na+]
product | 1-({5-[(3-Chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid | 0.12 g, yield of 90% | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)O | C22H23ClN4O3
